US07645771B2
To a −78° C. solution of methyl 5-amino-2-chloro-4-fluorobenzoate (195 mg, 1.0 mmol) and Et3N (0.13 mL, 1.0 mmol) in 2 mL CH2Cl2 was added trifluoromethanesulfonic anhydride (0.32 mL, 1.9 mmol). The reaction was stirred for 4 h below −40° C. and quenched with saturated aqueous NaHCO3. The crude methyl 2-chloro-4-fluoro-5-{[(trifluoromethyl)sulfonyl]amino}benzoate (ESI-MS 336 (M+H)) was isolated and hydrolyzed using aqueous NaOH to provide 2-chloro-4-fluoro-5-{[(trifluoromethyl)sulfonyl]amino}benzoic acid (ESI-MS 320 (M−H)) which was used without further purification.

reactant | methyl 5-amino-2-chloro-4-fluorobenzoate | 1.0 mmol, 195 mg | NC=1C(=CC(=C(C(=O)OC)C1)Cl)F | C8H7ClFNO2
reactant | Et3N | 1.0 mmol, 0.13 mL | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.9 mmol, 0.32 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-chloro-4-fluoro-5-{[(trifluoromethyl)sulfonyl]amino}benzoate | ClC1=C(C(=O)OC)C=C(C(=C1)F)NS(=O)(=O)C(F)(F)F | C9H6ClF4NO4S
